US09233098B2
8. Preparation of methyl 2-[1-[4-(2-naphthamido)benzyl]-1H-pyrazolo[3,4-b]pyridin-3-yl]acetate
Methyl 2-[1-(4-aminobenzyl)-1H-pyrazolo[3,4-b]pyridin-3-yl]acetate (58 mg, 0.20 mmol) and triethylamine (41 mg, 0.41 mmol) were dissolved in 15 mL dichloromethane. In an ice bath, 2-naphthoyl chloride (38 mg, 0.20 mmol) was added. Upon completion of addition, it was moved to react at room temperature for 1 hour. It was rotate evaporated to dryness to remove the solvent, and chromatographed on a column (PE:EA=15:1) to obtain a white oil 60 mg, at a yield of 65%.

reactant | Methyl 2-[1-(4-aminobenzyl)-1H-pyrazolo[3,4-b]pyridin-3-yl]acetate | 0.20 mmol, 58 mg | NC1=CC=C(CN2N=C(C=3C2=NC=CC3)CC(=O)OC)C=C1 | C16H16N4O2
reactant | triethylamine | 0.41 mmol, 41 mg | C(C)N(CC)CC | C6H15N
reactant | 2-naphthoyl chloride | 0.20 mmol, 38 mg | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | methyl 2-[1-[4-(2-naphthamido)benzyl]-1H-pyrazolo[3,4-b]pyridin-3-yl]acetate | 60 mg, yield of 65% | C1=C(C=CC2=CC=CC=C12)C(=O)NC1=CC=C(CN2N=C(C=3C2=NC=CC3)CC(=O)OC)C=C1 | C27H22N4O3
